US08071609B2
A) N-cyclopropyl-9-vinyl-9H-purin-6-amine
6-Chloro-9-vinylpurine (0.54 g, 3 mmol) was mixed with cyclopropylamine (1.71 g, 30 mmol) in THF (10 mL) and the mixture was stirred for 5 h at rt. Water was added to dissolve the white precipitate (cyclopropylamine hydrochloride). The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over sodium sulfate, concentrated on a rotavap, and then recrystallized from EtOAc/hexanes yielding the desired product.

reactant | 6-Chloro-9-vinylpurine | 3 mmol, 0.54 g | ClC1=C2N=CN(C2=NC=N1)C=C | C7H5ClN4
reactant | cyclopropylamine | 30 mmol, 1.71 g | C1(CC1)N | C3H7N
reactant | Water | O | H2O
reactant | cyclopropylamine hydrochloride | Cl.C1(CC1)N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-9-vinyl-9H-purin-6-amine | C1(CC1)NC1=C2N=CN(C2=NC=N1)C=C | C10H11N5
